US08236976B2
Preparation of (S)-1-p-Tolyl-hept-2-en-1-ol (9)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 64 μL (0.55 mmol) 1-hexyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 59 μL (0.50 mmol) p-tolualdehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 87% yield (89 mg, 0.44 mmol). [α]D20=+43.1 (c=1.3, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz): δ 0.81 (t, 3H, J=7.1 Hz), 1.20-1.32 (m, 4H), 1.81 (br s, 1H), 1.97 (dt, 2H, J=7.0, 6.6 Hz), 2.26 (s, 3H), 5.04 (d, 1H, J=6.5 Hz), 5.57 (dd, 1H, J=15.3, 6.6 Hz), 5.66 (dt, 1H, J=15.3, 6.5 Hz), 7.07 (d, 2H, J=7.8 Hz), and 7.17 (d, 2H, J=7.8 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 21.1, 22.2, 31.2, 31.9, 75.1, 126.1, 129.1, 132.3, 132.5, 137.1, and, 140.5 ppm; IR (neat): 3346, 3017, 2957, 2925, 2858, 1663, 1613, 1513, 1456, 1377, and 1198 cm−1; HRMS-CI m/z 203.1440 [(M−H)+; calcd for C14H19O: 203.1436].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.55 mmol, 64 μL | C#CCCCC | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | p-tolualdehyde | 0.50 mmol, 59 μL | C1(=CC=C(C=C1)C=O)C | C8H8O
product | (S)-1-p-Tolyl-hept-2-en-1-ol | 87% yield | C1(=CC=C(C=C1)[C@H](C=CCCCC)O)C | C14H20O
